US08383625B2
(R)-3-Hydroxy-1-methyl-1-(pyridazin-3-ylcarbamoylmethyl)-pyrrolidinium bromide
A stirred suspension of 2-bromo-N-pyridazin-3-yl-acetamide (0.5 g, 2.31 mmol) in acetonitrile (10 ml) is treated with (R)-3-hydroxy-1-methyl pyrrolidine (0.234 g, 2.31 mmol). The suspension is stirred at room temperature for 2 hours and then filtered and washed with acetonitrile to yield the titled compound.

reactant | 2-bromo-N-pyridazin-3-yl-acetamide | 2.31 mmol, 0.5 g | BrCC(=O)NC=1N=NC=CC1 | C6H6BrN3O
reactant | (R)-3-hydroxy-1-methyl pyrrolidine | 2.31 mmol, 0.234 g | O[C@H]1CN(CC1)C | C5H11NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (R)-3-Hydroxy-1-methyl-1-(pyridazin-3-ylcarbamoylmethyl)-pyrrolidinium bromide | [Br-].OC1C[N@@+](CC1)(CC(NC=1N=NC=CC1)=O)C | InChI=1S/C11H16N4O2.BrH/c1-15(6-4-9(16)7-15)8-11(17)13-10-3-2-5-12-14-10;/h2-3,5,9,16H,4,6-8H2,1H3;1H/t9?,15-;/m1./s1
